US06306860B1
2-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-5-[N-(2-methoxyethyl)carbamoyl]pyridine
By the same procedure as described in the example 25, the synthesis was carried out starting with 6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester and using 2-methoxyethylamine. And then, the product was recrystallized with methylene chloride and hexane to give a desired compound.

reactant | 6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester | COC(C1=CN=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)=O | C20H25N5O3
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | 2-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-5-[N-(2-methoxyethyl)carbamoyl]pyridine | Yield: 73% | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C=C1)C(NCCOC)=O | C22H30N6O3
